US05565612
2-Chloro-3,4,5-trifluoronitrobenzene
If 0.15 mol of 2,3,4-trifluorochlorobenzene in 50 g of 100% strength sulfuric acid as diluent is used and nitration is carried out with 30.5 g (0.165 mol) of mixed acid prepared from 68.8% by weight of 100% strength H2SO4 and 31.2% by weight of 100% strength HNO3 at from 5° to 12° C., then reaction is complete after metered addition for 1 hour followed by stirring for an additional hour. The result is essentially the same.

reactant | 2,3,4-trifluorochlorobenzene | 0.15 mol | FC1=C(C=CC(=C1F)F)Cl | C6H2ClF3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
reactant | HNO3 | [N+](=O)(O)[O-] | HNO3
product | 2-Chloro-3,4,5-trifluoronitrobenzene | ClC1=C(C=C(C(=C1F)F)F)[N+](=O)[O-] | C6HClF3NO2
